US04582837
2-(2',4'-Dimethoxy-3'-methanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine hydrochloride
Prepared analogously to Example 1 from 2-(2',4'-dimethoxy-3'-hydroxy-phenyl)-imidazo[4,5-b]pyridine and methanesulfonic acid chloride.

reactant | 2-(2',4'-dimethoxy-3'-hydroxy-phenyl)-imidazo[4,5-b]pyridine | COC1=C(C=CC(=C1O)OC)C=1NC=2C(=NC=CC2)N1 | C14H13N3O3
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 2-(2',4'-Dimethoxy-3'-methanesulfonyloxy-phenyl)-imidazo[4,5-b]pyridine hydrochloride | Cl.COC1=C(C=CC(=C1OS(=O)(=O)C)OC)C=1NC=2C(=NC=CC2)N1 | InChI=1S/C15H15N3O5S.ClH/c1-21-11-7-6-9(12(22-2)13(11)23-24(3,19)20)14-17-10-5-4-8-16-15(10)18-14;/h4-8H,1-3H3,(H,16,17,18);1H
